US07608563B2
Dry tetrahydrofuran (3 mL) was added to 1.01 g (7.43 mmol) of commercially available 2-methoxybenzaldehyde under nitrogen atmosphere, and the mixture was ice-cooled. To the mixture was added dropwise a 3.8 mL (7.6 mmol) of tetrahydrofuran solution containing 2 mol/L isopropyl-magnesium bromide. After completion of dropwise addition, the reaction mixture was stirred in an ice bath for 1 hour. The reaction mixture was poured into water, made acidic with diluted hydrochloric acid, and then, extracted with ether. The organic layers were combined, washed successively with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed, and the obtained residue was purified by silica gel column chromatography (Wako gel C-100, hexane-ethyl acetate, gradient) to obtain 1.00 g (5.56 mmol, Yield: 74.8%) of 1-(2-methoxyphenyl)-2-methyl-1-propanol.

reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
reactant | 2-methoxybenzaldehyde | COC1=C(C=O)C=CC=C1 | C8H8O2
reactant | tetrahydrofuran | 7.6 mmol, 3.8 mL | O1CCCC1 | C4H8O
reactant | isopropyl-magnesium bromide | 2 mol/L | C(C)(C)[Mg]Br
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 1-(2-methoxyphenyl)-2-methyl-1-propanol | 5.56 mmol, 1.00 g, Yield: 74.8% | COC1=C(C=CC=C1)C(C(C)C)O | C11H16O2
